US04329347
6-[4-(4-Bromo-3-methyl-phenylmercapto)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 122 from 6-(4-bromobutoxy)-3,4-dihydro-carbostyril (m.p. 142°-147° C.) and 4-bromo-3-methyl-thiophenol.

reactant | 6-(4-bromobutoxy)-3,4-dihydro-carbostyril | BrCCCCOC=1C=C2CCC(NC2=CC1)=O | C13H16BrNO2
reactant | 4-bromo-3-methyl-thiophenol | BrC1=C(C=C(C=C1)S)C | C7H7BrS
product | 6-[4-(4-Bromo-3-methyl-phenylmercapto)-butoxy]-3,4-dihydro-carbostyril | BrC1=C(C=C(C=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O)C | C20H22BrNO2S
